US07399780B2
2-Chloro-5-(morpholin-4-ylmethyl)pyridine 1-oxide
A mixture of 2-chloro-5-(chloromethyl)pyridine 1-oxide (1.16 g, 6.52 mmol; described in: Tilley, J. W. et al, J. Heterocyclic Chem. 1979, 16, 333), morpholine (1.14 g, 13.0 mmol), and potassium carbonate (0.90 g, 6.52 mmol) in acetonitrile (30 mL) was stirred at room temperature for 72 h. The solvent was removed in vacuo and the residue was purified on a silica gel column using chloroform/ethanol, (9:1), as the eluent affording 1.21 g (81% yield) of the title compound as a colorless solid: mp 72-74° C.; 1H NMR (CDCl3, 400 MHz) δ 8.34 (s, 1 H), 7.39 (d, J=8 Hz, 1 H), 7.16 (dd, J=8, 2 Hz, 1 H), 3.65 (t, J=5 Hz, 4 H), 3.40 (s, 2 H), 2.40 (t, J=4 Hz, 4 H); 13C NMR (CDCl3, 100 MHz) δ 140.4 (br), 135.9, 126.6, 126.6, 66.8, 59.2, 53.4; MS (ESP) m/z 229 (M++1).

reactant | 2-chloro-5-(chloromethyl)pyridine 1-oxide | 6.52 mmol, 1.16 g | ClC1=[N+](C=C(C=C1)CCl)[O-] | C6H5Cl2NO
reactant | morpholine | 13.0 mmol, 1.14 g | N1CCOCC1 | C4H9NO
reactant | potassium carbonate | 6.52 mmol, 0.90 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 2-Chloro-5-(morpholin-4-ylmethyl)pyridine 1-oxide | 1.21 g, 81% yield | ClC1=[N+](C=C(C=C1)CN1CCOCC1)[O-] | C10H13ClN2O2
